datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[O:6][H:7]>>[C:0](=[C:1]=[O:2])([H:3])[H:4].[H:5][O:6][H:7],0.0
[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4].[S:8]=[C:9][S:10][H:11]>>[H:5][C:9](=[S:8])[S:10][H:11].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],22.5936
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:23])[H:14])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:24])[H:25],85.47912
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])([H:26])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:18]([C:17]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])[H:7],31.0453
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]([H:21])([H:22])[C:9]1([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])[H:12],30.585
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[O:8][H:9]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][O:8][H:9],1.79912
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][O:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][O:32][O:33],199.11656
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]1[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:18],41.6308
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[H:11])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:11])([H:5])[H:6].[H:10],121.7544
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([O:7][O:8][H:19])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[O:7][O:8][H:19],65.2704
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](#[C:9][C:10]([C:11]([H:15])([H:16])[H:17])[C:12]#[C:13][H:18])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9]#[C:8][H:14])([C:11]([H:15])([H:16])[H:17])[C:12]#[C:13][H:18],33.472
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[S:13]=[C:14][S:15][H:16]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14](=[S:13])[S:15][H:16],22.5936
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25][H:26]>>[C:0]([C:1]([C:2]1[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:24][O:25][H:26],43.932
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31][H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][O:30][O:31][H:32],62.395992
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:16])([H:17])[H:18])([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26],43.0952
